US04452783
4-Allyloxy-3-chloro-phenylacetyl-glycine ethyl ester
4-Allyloxy-3-chloro-phenylacetic acid (4.3 g) was dissolved in dry tetrahydrofuran (20 ml). To the solution was added glycine ethyl ester hydrochloride (2.85 g) in dry chloroform (30 ml) containing dry triethylamine (2.8 ml). DCC (4.1 g) was added and the reaction mixture was stirred overnight at room temperature.

reactant | 4-Allyloxy-3-chloro-phenylacetic acid | 4.3 g | C(C=C)OC1=C(C=C(C=C1)CC(=O)O)Cl | C11H11ClO3
reactant | glycine ethyl ester hydrochloride | 2.85 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | DCC | 4.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Allyloxy-3-chloro-phenylacetyl-glycine ethyl ester | C(C)OC(CNC(CC1=CC(=C(C=C1)OCC=C)Cl)=O)=O | C15H18ClNO4
